US05395846
Step B borane N,N-dimethyl-3-hydroxytricyclo[3.3.1.13,7 ]decan-1-amine complex
To N,N-dimethyl-3-hydroxytricyclo-[3.3.1.13,7 ]decan-1-amine (1.3 g; 0.0067 mole) dissolved in THF, under N2 and chilled in ice, is added borane-THF (14 ml; 0.014 mole) over 5 min. The ice bath is removed after an additional 5 min. and stirred at room temperature for 3 hrs. To this mixture is added ether (100 ml), washed with saturated NaHCO3 and evaporated to dryness to give borane N,N-dimethyl-3-hydroxytricyclo[3.3.1.13,7 ]decan-1-amine complex which is used directly in Step C.

reactant | N,N-dimethyl-3-hydroxytricyclo-[3.3.1.13,7 ]decan-1-amine | 0.0067 mole, 1.3 g | CN(C12CC3(CC(CC(C1)C3)C2)O)C | C12H21NO
reactant | borane THF | 0.014 mole, 14 ml | B.C1CCOC1
solvent | THF | C1CCOC1 | C4H8O
product | borane N,N-dimethyl-3-hydroxytricyclo[3.3.1.13,7 ]decan-1-amine | CN(C12CC3(CC(CC(C1)C3)C2)O)C.B | InChI=1S/C12H21NO.BH3/c1-13(2)11-4-9-3-10(5-11)7-12(14,6-9)8-11;/h9-10,14H,3-8H2,1-2H3;1H3
